US05122523
(3) 3-Ethylthio-2-(4-quinolylmethyl)propionic acid
597 mg of ethyl 2-(4-quinolylmethyl)acrylate was dissolved in 3 ml of ethylmercaptan. Then, 50 mg of potassium tert-butoxide was added thereto, and the mixture was stirred at room temperature for two hours. Then, the reaction solution was diluted with 60 ml of ethyl acetate and washed with 40 ml of water and then with 40 ml of a saturated sodium chloride aqueous solution. The organic layer was separated, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residual syrup was purified by silica gel column chromatography (n-hexane/ethyl acetate=5/2) and dried to obtain 640 mg (yield: 85%) of the desired product as syrup.

reactant | ethyl 2-(4-quinolylmethyl)acrylate | 597 mg | N1=CC=C(C2=CC=CC=C12)CC(C(=O)OCC)=C | C15H15NO2
reactant | potassium tert-butoxide | 50 mg | CC(C)([O-])C.[K+]
reactant | ethylmercaptan | 3 ml | C(C)S | C2H6S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 3-Ethylthio-2-(4-quinolylmethyl)propionic acid | 640 mg, yield: 85% | C(C)SCC(C(=O)O)CC1=CC=NC2=CC=CC=C12 | C15H17NO2S
